US06057369
1-(1-Hydroxy-5-phenylpentyl)cyclopentane carboxylic acid (11.3 g, 40.9 mmol) is dissolved in pyridine (90 mL) and cooled to 0° C. Benzenesulfonyl chloride (10.4 mL, 81 mmol) is added over 1 minute and the reaction is kept at 0° C. overnight. The reaction is poured into ice (100 mL) and the product extracted into ether (2×100 mL). The ether layer is washed with NaHCO3 (100 mL), 1 N HCl (100 mL) and water (2×100 mL). The solution is dried over MgSO4 and the solvent removed in vacuo (without heat). The crude product is purified by column chromatography (silica, 15% ether in petroleum ether) to yield 3-(4-phenylbutyl)-2-oxaspiro[3,4]octan-1-one (5.6 g, 54%): 1H NMR (300 MHz, CDCl3) δ 7.30-7.25 (m, 2H), 7.20-7.15 (m, 3H), 4.31-4.26 (m, 1H), 2.63 (t, J=7.6 Hz, 2H), 2.22-2.13 (m, 1H), 1.99-1.26 (m, 13H).

reactant | 1-(1-Hydroxy-5-phenylpentyl)cyclopentane carboxylic acid | 40.9 mmol, 11.3 g | OC(CCCCC1=CC=CC=C1)C1(CCCC1)C(=O)O | C17H24O3
reactant | Benzenesulfonyl chloride | 81 mmol, 10.4 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 90 mL | N1=CC=CC=C1 | C5H5N
product | 3-(4-phenylbutyl)-2-oxaspiro[3,4]octan-1-one | 5.6 g, 54% | C1(=CC=CC=C1)CCCCC1OC(C12CCCC2)=O | C17H22O2
